US07037916B2
A solution of N, N-dimethylaniline (0.31 mL) and 6-butyl-2-(3-fluoro-phenyl)-3H-pyrimidin-4-one (0.3 g) in 6 mL phosphorus oxychloride was heated in a sealed tube for 2.5 h at 125° C. The solution was allowed to cool and the phosphorous oxychloride were removed in vacuo. The remaining residue was washed four times with diethyl ether and the combined ether portions were washed with 0.5 M hydrochloric acid, dried over magnesium sulfate, and concentrated in vacuo to yield 4-butyl-6-chloro-2-(3-fluoro-phenyl)-pyrimidine (0.20 g).

reactant | N, N-dimethylaniline | 0.31 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | 6-butyl-2-(3-fluoro-phenyl)-3H-pyrimidin-4-one | 0.3 g | C(CCC)C1=CC(NC(=N1)C1=CC(=CC=C1)F)=O | C14H15FN2O
reactant | phosphorus oxychloride | 6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-butyl-6-chloro-2-(3-fluoro-phenyl)-pyrimidine | 0.20 g | C(CCC)C1=NC(=NC(=C1)Cl)C1=CC(=CC=C1)F | C14H14ClFN2
